US05110964
8.01 g of lauric acid was added to 100 ml of 85% phosphoric acid and 100 g of polyphosphoric acid, and heated at 180° C. for three hours while the pressure was reduced (1 mmHg) with the use of vacuum pump. After the mixture was cooled, 1.86 g of ferrocene and 20 ml of methylene chloride were added, and the resulting mixture was heat-refluxed at 50° C. for 9 hours. Then, the mixture was poured into water, and made to be basic with potassium hydroxide, and subjected to extraction with methylene chloride, and dried. The unreacted ferrocene was removed by a column chromatography, to obtain 3.20 g of undecanylferrocenyl ketone represented by the formula (A) in a yield of 87.0%. The proton nuclear magnetic resonance (1H--NMR) spectrum of the product is shown in FIG. 1.

reactant | lauric acid | 8.01 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | phosphoric acid | 100 ml | P(O)(O)(O)=O | H3O4P
reactant | ferrocene | 1.86 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | undecanylferrocenyl ketone | 3.20 g, yield of 87.0% | C(CCCCCCCCCC)C(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H27O.C5H5.Fe/c1-2-3-4-5-6-7-8-9-10-15-17(18)16-13-11-12-14-16;1-2-4-5-3-1;/h11-14H,2-10,15H2,1H3;1-5H;/q2*-1;+2
